US08222248B2
To a stirred solution of {4-[5-(3,4-dimethylphenylcarbamoyl)-1H-benzoimidazol-2-yl]-3,5-dimethyl-phenylamino}-acetic acid methyl ester (160 mg) in MeOH (5 mL) was added 1N NaOH (5 mL) and the mixture was stirred at room temperature for 18 h. The solution was washed with Et2O and the aqueous layer was carefully acidified to pH=2-3 with 1N HCl. The resulting suspension was filtered, washed with water and dried to give {4-[5-(3,4-dimethylphenylcarbamoyl)-1H-benzoimidazol-2-yl]-3,5-dimethylphenylamino}-acetic acid as a white solid. MS (ESI)m/z 443 (M+H). 1H NMR (MeOD, 400 MHz) δ 8.22 (s, 1H), 7.91 (dd, 1H), 7.70 (d, 1H), 7.46 (d, 1H), 7.42 (dd, 1H), 7.12 (d, 1H), 6.44 (s, 2H), 3.91 (s, 2H), 2.29 (s, 3H), 2.26 (s, 3H), 2.10 (s, 6H).

reactant | {4-[5-(3,4-dimethylphenylcarbamoyl)-1H-benzoimidazol-2-yl]-3,5-dimethyl-phenylamino}-acetic acid methyl ester | 160 mg | COC(CNC1=CC(=C(C(=C1)C)C1=NC2=C(N1)C=CC(=C2)C(NC2=CC(=C(C=C2)C)C)=O)C)=O | C27H28N4O3
reactant | NaOH | 1N, 5 mL | [OH-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | {4-[5-(3,4-dimethylphenylcarbamoyl)-1H-benzoimidazol-2-yl]-3,5-dimethylphenylamino}-acetic acid | CC=1C=C(C=CC1C)NC(=O)C1=CC2=C(NC(=N2)C2=C(C=C(C=C2C)NCC(=O)O)C)C=C1 | C26H26N4O3
